US04983607
50 g (0.23 mol) of methyl 2-oxo-1,2-dihydro-4-quinolinacetate dissolved in 1 l of methanol is subjected to hydrogenation in a Parr apparatus in the presence of 2 g of Adams' platinum oxide under 40 to 45 psi and at 60° C. for approximately 1 h. After the catalyst is filtered off and the solvent evaporated off, the oily residue is chromatographed on silica. Elution with a dichloromethane/acetone (95:5) mixture yields an oil, which is solubilized in 250 ml of boiling toluene. After being cooled, this solution is diluted with 250 ml of petroleum ether. The crystalline product thereby obtained is drained, washed and dried. 36.8 g (73%) of methyl (±)-2-oxo-1,2,3,4-tetrahydro-4-quinolineacetate, melting point 115°-116° C., are obtained.

reactant | methyl 2-oxo-1,2-dihydro-4-quinolinacetate | 0.23 mol, 50 g | O=C1NC2=CC=CC=C2C(=C1)CC(=O)OC | C12H11NO3
solvent | methanol | 1 l | CO | CH4O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | platinum oxide | [Pt]=O
product | methyl (±)-2-oxo-1,2,3,4-tetrahydro-4-quinolineacetate | 36.8 g, 73% | O=C1NC2=CC=CC=C2C(C1)CC(=O)OC | C12H13NO3
